Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
seizure
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HPI: 
Ms. ___ is a ___ right-handed woman with history
notable for anxiety and OCD presenting with two seizures.

Ms. ___ roommate reports hearing a noise from her 
shared
room around 19:00 this evening; on entering the room, she found
Ms. ___ face down on the floor, with what she describes 
as
"fluid" movements of the extremities. After about one minute, 
Ms.
___ was noted to be confused for another ___ minutes, for
instance attempting to stand despite redirection and asking for
her phone, which she was holding. She was subsequently described
as understanding what had transpired, precipitating a ___
minute period of increased anxiety, but reportedly without
further confusion. 

Ms. ___ was subsequently brought to the ___ ED, where,
after attending evaluation, she was noted to have a second
seizure. Ms. ___ parents report noticing initial
stuttering and speech arrest, followed by tonic elevation of the
upper extremities, with eyes closed; the ED team reports 
noticing
hypoxia during the episode as well as upward and ?lateral (both
reports of right and left deviation from different providers) 
eye
deviation on forced eye opening. The episode itself lasted ___
seconds (per different provider ___, following which Ms.
___ parents report a ca. 10 minute period of confusion.
No loss of continence was noted, although Ms. ___ herself
has no recollection of the above seizures or period between them
at time of evaluation.

Ms. ___ notably did have a prior seizure while
defervescing at the age of ___, for which she reportedly completed
unrevealing EEG and imaging at ___ 
without
initiation of AEDs; she otherwise does not have a history of
developmental delays, childhood meningitis, or head trauma. Ms.
___ herself also denies déjà ___, jamais ___, dysosmia, or
dysgeusia.

On review of systems, aside from the above, Ms. ___ 
denies
recent headache, dizziness, vertigo, speech disturbance, vision
change, dysarthria, dysphagia, focal weakness, paresthesiae,
bowel or bladder incontinence, gait disturbance, fevers, chills,
cough, chest discomfort, abdominal pain, changes in bowel or
bladder habits, or new rash (noting chronic perioral eczematous
changes). Ms. ___ had one episode of emesis during our
evaluation.

 
Past Medical History:
Anxiety
OCD 
 
Social History:
___
Family History:
FAMILY HISTORY:
Negative for seizures or neurologic disorders.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
 Vitals: T: 97.6  P: 88  R: 18  BP: 133/80  SpO2: 99% RA
 General: Awake, somewhat restless, but otherwise in NAD.
 HEENT: NC/AT, no scleral icterus noted, MMM.
 Neck: Supple, no nuchal rigidity.
 Pulmonary: No tachypnea or increased WOB.
 Cardiac: Warm, well-perfused.
 Abdomen: Soft, ND.
 Extremities: No ___ edema.
 Skin: No rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Unable to provide detailed
history. Somewhat inattentive, able to name ___ but not ___
backwards (Dec->Sep), and requiring redirection throughout the
examination. Language is fluent with intact comprehension and
naming of both high- and low-frequency objects. Able to read
without difficulty. Speech was not dysarthric. Able to follow
midline and appendicular commands. No apparent hemineglect.

-Cranial Nerves:
 II, III, IV, VI: PERRL 6 to 3 mm ___. EOMI without nystagmus. 
VFF
to confrontation.
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii bilaterally.
 XII: Tongue protrudes in midline.

-Motor: No pronator drift bilaterally. No adventitious 
movements,
such as tremor, noted. 
   Delt Bic Tri WrE FFl FE IP Quad Ham TA 
 L  5    ___   ___   5    5  5  
 R  5    ___   ___   5    5  5  

-Sensory: No deficits to light touch or pinprick throughout. No
extinction to DSS.

-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    2   2
 R  2  2    2    2   2

-Coordination: No intention tremor or dysmetria on FNF
bilaterally. 

-Gait: Deferred.
===========================================================
DISCHARGE PHYSICAL EXAMINATION
 Vitals: 97.3 122 / 76 HR52 RR18 97 Ra 
 General: Awake, alert, in good spirits
 HEENT: NC/AT, no scleral icterus noted, MMM.
 Neck: Supple
 Pulmonary: No tachypnea or increased WOB.
 Cardiac: Warm, well-perfused.
 Abdomen: Soft, ND.
 Extremities: No ___ edema.
 Skin: No rashes or lesions noted

Neuro: MS: Awake, alert, able to relate history without 
difficulty. no paraphasic errors, speech fluent. 

CN- EOMI, face symmetric at rest and with activation. No 
dysarthria. Appears to have full ROM of neck. 

Motor- normal tone and bulk throughout. Lifts all extremities 
briskly against gravity without apparent asymmetry.

Coordination - reaching for objects without apparent dysmetria. 

Gait- normal based. Able to tandem gait forward and backward 
without difficulty

 
Pertinent Results:
LABORATORY DATA:
___ 08:19PM BLOOD WBC: 10.2* RBC: 4.60 Hgb: 13.8 Hct: 42.1
MCV: 92 MCH: 30.0 MCHC: 32.8 RDW: 12.4 RDWSD: 41.___ 
___ 08:19PM BLOOD Neuts: 76.0* Lymphs: 15.9* Monos: 5.9 
Eos:
0.9* Baso: 0.3 Im ___: 1.0* AbsNeut: 7.76* AbsLymp: 1.62
AbsMono: 0.60 AbsEos: 0.09 AbsBaso: 0.03 
___ 08:19PM BLOOD Glucose: 113* UreaN: 10 Creat: 0.7 Na: 
139
K: 4.4 Cl: 103 HCO3: 21* AnGap: 15 
___ 08:19PM BLOOD Albumin: 4.8 Calcium: 9.6 Phos: 2.9 
___ 08:19PM BLOOD ALT: 16 AST: 20 CK(CPK): 150 AlkPhos: 78
TotBili: 0.2 
___ 08:19PM BLOOD Lipase: 40 
___ 08:19PM BLOOD ASA: NEG Ethanol: NEG Acetmnp: NEG
Tricycl: NEG 
___ 08:31PM URINE Color: Straw Appear: Clear Sp ___: 1.009 

___ 08:31PM URINE Blood: SM* Nitrite: NEG Protein: TR*
Glucose: NEG Ketone: NEG Bilirub: NEG Urobiln: NEG pH: 5.5 
Leuks:
NEG 
___ 08:31PM URINE RBC: 1 WBC: 0 Bacteri: NONE Yeast: NONE
Epi: <1 
___ 08:31PM URINE UCG: NEGATIVE 
___ 08:31PM URINE bnzodzp: NEG barbitr: NEG opiates: NEG
cocaine: NEG amphetm: NEG oxycodn: NEG mthdone: NEG  
   URINE CULTURE (Pending): 
 
IMAGING:
___ 12:49 AM CT HEAD W/O CONTRAST 
No acute intracranial process.

MR ___ 3T Seizure protocol ___ - final read pending
 
Brief Hospital Course:
Ms. ___ is a ___ right-handed woman with history
notable for anxiety and OCD presenting with two seizures and 
history of seizure possibly with fever as a toddler. 

Hospital course:
Her EEG initially had significant epileptiform activity, which 
improved after loading with 1500mg IV keppra. She was started on 
1000mg Keppra BID. She was back to baseline mental status prior 
to discharge. Her 3T MRI was preliminarily read as normal, final 
read pending. 
 
Medications on Admission:
Sertraline 50 mg PO DAILY  
 
Discharge Medications:
1.  LevETIRAcetam 1000 mg PO BID 
RX *levetiracetam 1,000 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*1 
2.  Sertraline 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
SEIZURE

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 
You were admitted due to concern for SEIZURE. You had an EEG 
placed on your head which showed some abnormal extra ___ 
activity (but not full seizures), due to this you were started 
on an anti-seizure medication, keppra. You also had an MRI of 
your head which was preliminarily normal. 

Please start Keppra (levetiracetam) 1000mg twice a day. 
Please followup with neurology as described below. 
 
Followup Instructions:
___